US05013841
A mixture of 0.42 g of 5-amino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid, 0.39 g of anhydrous piperazine and 10 ml of pyridine was heated under reflux for 2.5 hours. The reaction mixture was concentrated to dryness under reduced pressure, and the residue was washed with ethanol and then dissolved in water and a 1N aqueous solution of sodium hydroxide. The solution was neutralized with a 10% aqueous solution of acetic acid. The crystals which precipitated were collected by filtration, washed with water, and dried to give 0.44 g of 5-amino-1-cyclopropyl-6-fluoro-7-(1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid as pale yellow needles. m.p. 214°-216° C.

reactant | 5-amino-1-cyclopropyl-6,7-difluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.42 g | NC1=C2C(C(=CN(C2=CC(=C1F)F)C1CC1)C(=O)O)=O | C13H10F2N2O3
reactant | piperazine | 0.39 g | N1CCNCC1 | C4H10N2
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 5-amino-1-cyclopropyl-6-fluoro-7-(1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.44 g | NC1=C2C(C(=CN(C2=CC(=C1F)N1CCNCC1)C1CC1)C(=O)O)=O | C17H19FN4O3
